US08026236B2
At 0° C., 2-chloroacetyl chloride (127 mg) was added to a solution of 1-methyl-6-(4-(2-(methylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (211 mg) and N-ethyl-N-isopropylpropan-2-amine (0.465 ml) dissolved in THF (5 ml). Reaction mixture was stirred at room temperature for 1 hour. Reaction mixture diluted with ethyl acetate, washed with sodium bicarbonate and water. Organic layer was dried over magnesium sulphate, solvent removed under vacuo to afford 2-chloro-N-(2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl)-N-methylacetamide (205 mg). 1H NMR (CDCL3) δ: 8.22 (m, 2H), 8.08 (s, 1H), 7.87 (s, 1H), 7.13 (d, 1H), 4.32 (t, 2H), 4.13 (s, 2H), 3.99 (s, 3H), 3.88 (t, 2H), 3.29 (s, 3H). MS m/z 452.0 (M+H).

reactant | 2-chloroacetyl chloride | 127 mg | ClCC(=O)Cl | C2H2Cl2O
reactant | 1-methyl-6-(4-(2-(methylamino)ethoxy)-3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 211 mg | CN1C=NC=2C(=NC(=CC21)C2=CC(=C(C=C2)OCCNC)C(F)(F)F)C#N | C18H16F3N5O
reactant | N-ethyl-N-isopropylpropan-2-amine | 0.465 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-chloro-N-(2-(4-(4-cyano-1-methyl-1H-imidazo[4,5-c]pyridin-6-yl)-2-(trifluoromethyl)phenoxy)ethyl)-N-methylacetamide | 205 mg | ClCC(=O)N(C)CCOC1=C(C=C(C=C1)C1=CC2=C(C(=N1)C#N)N=CN2C)C(F)(F)F | C20H17ClF3N5O2
